US04908378
Preparation of trans-2-(3,4-Dihydro-2,2-dimethyl-3-hydroxy-7-amino-2H-1-benzopyran-4-yl)-2,3-dihydro-1H-isoindol-1-one
A mixture of 1.01 g (2.85 mmol) of trans-2-(3,4-dihydro-2,2-dimethyl-3-hydroxy-7-nitro-2H-1-benzopyran-4-yl)-2,3-dihydro-1H-isoindol-1-one and 250 mg of 10% Pd/C in methanol (30 mL) was hydrogenated at atmospheric pressure for 4 hours. Filtration through Solka Floc® using a methanol rinse and concentration gave crude title compound which was used without further purification.

reactant | trans-2-(3,4-dihydro-2,2-dimethyl-3-hydroxy-7-nitro-2H-1-benzopyran-4-yl)-2,3-dihydro-1H-isoindol-1-one | 2.85 mmol, 1.01 g | CC1(OC2=C([C@H]([C@@H]1O)N1C(C3=CC=CC=C3C1)=O)C=CC(=C2)[N+](=O)[O-])C | C19H18N2O5
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | trans-2-(3,4-Dihydro-2,2-dimethyl-3-hydroxy-7-amino-2H-1-benzopyran-4-yl)-2,3-dihydro-1H-isoindol-1-one | CC1(OC2=C([C@H]([C@@H]1O)N1C(C3=CC=CC=C3C1)=O)C=CC(=C2)N)C | C19H20N2O3
